US05789428
11.5 g of N,N'-carbonyldiimidazole was gradually added to a solution containing 12.8 g of N-tert-butoxycarbonyl-D-alanine dissolved in 100 mL of tetrahydrofuran, and the reaction mixture was stirred for 30 minutes. 8.9 g of 2-amino-5-methylphenyldisulfide was added to the reaction mixture, and the whole mixture was refluxed for 3 hours. After completion of the reaction, the resulting mixture was poured into ice-cold water. The solution was extracted with ethyl acetate, washed using water, and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. 1.2 g of lithium aluminum hydride was gradually added to a solution containing the crude 2- [N-(N'-tert-butoxycarbonyl-D-alanyl)] amino-5-methylphenyldisulfide obtained above dissolved in 100 mL of tetrahydrofuran, and the reaction mixture was stirred for 15 hours at room temperature. The reaction mixture was poured into 10% hydrochloric acid. The solution was extracted with ethyl acetate, washed successively with a saturated aqueous solution of sodium bicarbonate and water, and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel to afford 3 g of (R)-N-tert-butoxycarbonyl-1-(6-methyl-2-benzothiazolyl)ethylamine (melting point: 101°~104° C.). Furthermore, hydrogen chloride gas was bubbled into a solution containing the crystals obtained above dissolved in 30 mL of methylene chloride, for 3 hours at room temperature. After completion of the reaction, the solvent was removed under reduced pressure. The residue was made basic by means of adding a saturated aqueous solution of sodium bicarbonate. The solution was extracted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel to afford 1.3 g (yield: 11%) of the desired product.

reactant | N-tert-butoxycarbonyl-D-alanine | 12.8 g | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | 2-amino-5-methylphenyldisulfide | 8.9 g | NC1=C(C=C(C=C1)C)SSC1=C(C=CC(=C1)C)N | C14H16N2S2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (R)-N-tert-butoxycarbonyl-1-(6-methyl-2-benzothiazolyl)ethylamine | 3 g | C(C)(C)(C)OC(=O)N[C@H](C)C=1SC2=C(N1)C=CC(=C2)C | C15H20N2O2S
